US06995144B2
3-[4-[2-(2-Methylphenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one
After adding 3 ml of 4N hydrogen chloride/ethyl acetate to 153 mg of 1-[1-(3-tert-butoxy-2-pyrazinylmethyl)-piperidin-4-yl]-2-(2-methylphenyl)ethanone, the mixture was stirred for 5 hours at room temperature. Aqueous 1N sodium hydroxide was added to the reaction solution and extraction was performed with dichloromethane. The organic layer was Washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Diethyl ether was added and the insoluble portion was filtered out to obtain the title compound (66 mg, 51% yield).

reactant | hydrogen chloride ethyl acetate | 4N, 3 ml | Cl.C(C)(=O)OCC
reactant | 1-[1-(3-tert-butoxy-2-pyrazinylmethyl)-piperidin-4-yl]-2-(2-methylphenyl)ethanone | 153 mg | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)C(CC1=C(C=CC=C1)C)=O | C23H31N3O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[4-[2-(2-Methylphenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one | 66 mg, 51% yield | CC1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC=1C(NC=CN1)=O | C19H23N3O2
